US08067447B2
Methyl 1-(4-fluorophenyl)-6-isopropyl-1H-indazole-5-carboxylate (175 mg, 0.56 mmol) was dissolved in 5 mL THF and 1M LiBH4 in THF (3 mmol) was added. Heated at reflux. After 12 h, the reaction was quenched with MeOH, poured into brine and extracted with EtOAc×3. The organic layers were dried over MgSO4, filtered, and concentrated. The residue was purified on SiO2 by MPLC using 1:3 EtOAc/hexane. Obtained 148 mg (93% yield) of (1-(4-fluorophenyl)-6-isopropyl-1H-indazol-5-yl)methanol. MS found: (M+H)+=285.

reactant | Methyl 1-(4-fluorophenyl)-6-isopropyl-1H-indazole-5-carboxylate | 0.56 mmol, 175 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C(C)C)C(=O)OC | C18H17FN2O2
reactant | LiBH4 | 1M | [Li+].[BH4-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mmol | C1CCOC1 | C4H8O
product | (1-(4-fluorophenyl)-6-isopropyl-1H-indazol-5-yl)methanol | 148 mg, 93% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=C(C=C12)C(C)C)CO | C17H17FN2O
